US07608716B2
To a suspension of 2-(pyridin-3-yl)acetic acid-hydrochloride (13.2 g, 75.6 mmol) in ethanol (100 mL) was added a solution (150 mL) of 0.5 mol potassium hydroxide/ethanol, and the mixture was stirred well, then filtered to remove potassium chloride, concentrated, and dried to give 2-(pyridin-3-yl)acetic acid (10.6 g, quantitative).

reactant | 2-(pyridin-3-yl)acetic acid-hydrochloride | 75.6 mmol, 13.2 g | Cl.N1=CC(=CC=C1)CC(=O)O
reactant | potassium hydroxide ethanol | 0.5 mol, 150 mL | [OH-].[K+].C(C)O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-(pyridin-3-yl)acetic acid | 10.6 g | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
